US05521188
B. 3-[3-[4-(5-Methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-t-butylamino-3-cyclobuten-3-yl)-1H-indole (I-6)
To a solution of 3-[3-[4-(5-methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-t-butylamino-3-cyclobuten-3-yl)-1-triisopropylsilylindole (0.294 g, 0.45 mmol) in 10 mL of acetonitrile was added 48% HF (32 μL, 0.90 mmol) and the mixture was stirred at room temperature for 2 h. The resulting mixture was evaporated and the residue was partitioned between saturated aqueous NaHCO3 and ethyl acetate. The organic phase was separated and the aqueous phase was back-extracted with ethyl acetate. The combined organic extracts were dried (Na2SO4) and evaporated to give the title compound (0.213 g, 94%) as a yellow foam which could not be crystallized. This material was suspended in excess 1N HCl, a small amount of ethanol was added and the mixture was gently warmed to effect dissolution. Storage of this solution at -20° C. led to crystallization. The crystals were filtered, washed (acetone, ether) and dried in vacuo to give the hydrochloride (0.252 g, 89%) as a light yellow solid, mp 180° C. (softens), 215°-218° C. (foams): IR (KBr) 3400 (br), 1775, 1715, 1635, 1575 (br) cm-1 ; 1H NMR (DMSO-d6, 200 MHz) δ 11.58 (br s, 1H), 11.32 (br s, 1H), 8.67 (s, 1H), 8.46 (s, 1H), 8.32 (s, 1H), 8.21 (s, 1H), 7.84 (d, J=8.6 Hz, 1H), 7.49 (d, J=8.4 Hz, 1H), 7.33 (s, 1H), 4.93 (m, 2H), 3.91 (s, 3H), 3.79-3.62 (m, 4H), 3.17 (br s, 4H), 2.84 (t, J=7.0 Hz, 2H), 2.17 (m, 2H), 1.51 (s, 9H). Anal. Calcd for C28H34N6O3. 3 HCl. H2O: C, 53.38; H, 6.24; N, 13.34. Found: C, 53.24; H, 6.35; N, 13.24.

reactant | 3-[3-[4-(5-methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-t-butylamino-3-cyclobuten-3-yl)-1-triisopropylsilylindole | 0.45 mmol, 0.294 g | COC=1C(=NC=NC1)N1CCN(CC1)CCCC1=CN(C2=CC=C(C=C12)C=1C(C(C1NC(C)(C)C)=O)=O)[Si](C(C)C)(C(C)C)C(C)C | C37H54N6O3Si
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-[3-[4-(5-Methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-t-butylamino-3-cyclobuten-3-yl)-1H-indole | 0.213 g, 94% | COC=1C(=NC=NC1)N1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)C=1C(C(C1NC(C)(C)C)=O)=O | C28H34N6O3
